US08193227B2
4-hydroxy-3-nitrobenzenesulfonyl chloride
To a solution of chlorosulfonic acid (12.0 mL, 180 mmol) at 0° C. was added 2-nitrophenol (8.35 g, 60.0 mmol) in small portions over 1 h. The reaction was heated to 60° C. for 20 minutes and allowed to stir for 18 h at 25° C. The reaction was quenched by pouring it into 100 g of ice. The reaction was extracted with chloroform (3×), washed with cold water (2×), dried over MgSO4, filtered, and concentrated to give 9.06 g (64%) of the title compound.

reactant | chlorosulfonic acid | 180 mmol, 12.0 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2-nitrophenol | 60.0 mmol, 8.35 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
product | 4-hydroxy-3-nitrobenzenesulfonyl chloride | 9.06 g, 64% | OC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H4ClNO5S
